US06953787B2
N-Trifluoroacetyl-8-bromo-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-bromo-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (1.50 g, 4.10 mmol) in dichloromethane (80 mL) was treated dropwise with BBr3 (9.4 mL of a 1.0M solution in CH2Cl2, 9.4 mmol), and the mixture stirred overnight while warming to 20 C. The excess BBr3 was quenched with the dropwise addition of water, the mixture diluted with ether (200 mL), washed with Na2CO3 (100 mL) and brine (100 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 1.25 g of a white solid foam. 1H NMR (400 MHz, CDCl3, mixture of rotamers) d 7.25 (s, 1 H), 6.79 (m, 1 H), 3.79 (m, 1 H), 3.7−3.3 (m, 2 H), 3.2−2.8 (m, 4 H), 1.32 (m, 3 H).

reactant | N-trifluoroacetyl-8-bromo-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 4.10 mmol, 1.50 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OC)Br)(F)F | C14H15BrF3NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Trifluoroacetyl-8-bromo-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.25 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)O)Br)(F)F | C13H13BrF3NO2
